*
R1 N635 N034 1
R2 N636 N635 2
R3 N637 N636 3
R4 N638 N637 4
R5 N639 N638 5
R6 N618 N619 1
R7 N617 N618 2
R8 N616 N617 3
R9 N615 N616 4
R10 N034 N615 5
V1 0 N034 SINE(0 10 1k)
R11 N016 N639 5
R12 N619 N016 1
R13 N595 N034 1
R14 N596 N595 2
R15 N597 N596 3
R16 N598 N597 4
R17 N599 N598 5
R18 N578 N579 1
R19 N577 N578 2
R20 N576 N577 3
R21 N575 N576 4
R22 N034 N575 5
R23 N016 N599 5
R24 N579 N016 1
R25 N555 N034 1
R26 N556 N555 2
R27 N557 N556 3
R28 N558 N557 4
R29 N559 N558 5
R30 N538 N539 1
R31 N537 N538 2
R32 N536 N537 3
R33 N535 N536 4
R34 N034 N535 5
R35 N016 N559 5
R36 N539 N016 1
R37 N515 N034 1
R38 N516 N515 2
R39 N517 N516 3
R40 N518 N517 4
R41 N519 N518 5
R42 N498 N499 1
R43 N497 N498 2
R44 N496 N497 3
R45 N495 N496 4
R46 N034 N495 5
R47 N016 N519 5
R48 N499 N016 1
R49 N475 N034 1
R50 N476 N475 2
R51 N477 N476 3
R52 N478 N477 4
R53 N479 N478 5
R54 N458 N459 1
R55 N457 N458 2
R56 N456 N457 3
R57 N455 N456 4
R58 N034 N455 5
R59 N016 N479 5
R60 N459 N016 1
R61 N435 N034 1
R62 N436 N435 2
R63 N437 N436 3
R64 N438 N437 4
R65 N439 N438 5
R66 N418 N419 1
R67 N417 N418 2
R68 N416 N417 3
R69 N415 N416 4
R70 N034 N415 5
R71 N016 N439 5
R72 N419 N016 1
R73 N395 N034 1
R74 N396 N395 2
R75 N397 N396 3
R76 N398 N397 4
R77 N399 N398 5
R78 N378 N379 1
R79 N377 N378 2
R80 N376 N377 3
R81 N375 N376 4
R82 N034 N375 5
R83 N016 N399 5
R84 N379 N016 1
R85 N355 N034 1
R86 N356 N355 2
R87 N357 N356 3
R88 N358 N357 4
R89 N359 N358 5
R90 N338 N339 1
R91 N337 N338 2
R92 N336 N337 3
R93 N335 N336 4
R94 N034 N335 5
R95 N016 N359 5
R96 N339 N016 1
R97 N625 N016 1
R98 N626 N625 2
R99 N627 N626 3
R100 N628 N627 4
R101 N629 N628 5
R102 N608 N609 1
R103 N607 N608 2
R104 N606 N607 3
R105 N605 N606 4
R106 N016 N605 5
R107 N017 N629 5
R108 N609 N017 1
R109 N585 N016 1
R110 N586 N585 2
R111 N587 N586 3
R112 N588 N587 4
R113 N589 N588 5
R114 N568 N569 1
R115 N567 N568 2
R116 N566 N567 3
R117 N565 N566 4
R118 N016 N565 5
R119 N017 N589 5
R120 N569 N017 1
R121 N545 N016 1
R122 N546 N545 2
R123 N547 N546 3
R124 N548 N547 4
R125 N549 N548 5
R126 N528 N529 1
R127 N527 N528 2
R128 N526 N527 3
R129 N525 N526 4
R130 N016 N525 5
R131 N017 N549 5
R132 N529 N017 1
R133 N505 N016 1
R134 N506 N505 2
R135 N507 N506 3
R136 N508 N507 4
R137 N509 N508 5
R138 N488 N489 1
R139 N487 N488 2
R140 N486 N487 3
R141 N485 N486 4
R142 N016 N485 5
R143 N017 N509 5
R144 N489 N017 1
R145 N465 N016 1
R146 N466 N465 2
R147 N467 N466 3
R148 N468 N467 4
R149 N469 N468 5
R150 N448 N449 1
R151 N447 N448 2
R152 N446 N447 3
R153 N445 N446 4
R154 N016 N445 5
R155 N017 N469 5
R156 N449 N017 1
R157 N425 N016 1
R158 N426 N425 2
R159 N427 N426 3
R160 N428 N427 4
R161 N429 N428 5
R162 N408 N409 1
R163 N407 N408 2
R164 N406 N407 3
R165 N405 N406 4
R166 N016 N405 5
R167 N017 N429 5
R168 N409 N017 1
R169 N385 N016 1
R170 N386 N385 2
R171 N387 N386 3
R172 N388 N387 4
R173 N389 N388 5
R174 N368 N369 1
R175 N367 N368 2
R176 N366 N367 3
R177 N365 N366 4
R178 N016 N365 5
R179 N017 N389 5
R180 N369 N017 1
R181 N345 N016 1
R182 N346 N345 2
R183 N347 N346 3
R184 N348 N347 4
R185 N349 N348 5
R186 N328 N329 1
R187 N327 N328 2
R188 N326 N327 3
R189 N325 N326 4
R190 N016 N325 5
R191 N017 N349 5
R192 N329 N017 1
R193 N315 N034 1
R194 N316 N315 2
R195 N317 N316 3
R196 N318 N317 4
R197 N319 N318 5
R198 N298 N299 1
R199 N297 N298 2
R200 N296 N297 3
R201 N295 N296 4
R202 N034 N295 5
R203 N016 N319 5
R204 N299 N016 1
R205 N275 N034 1
R206 N276 N275 2
R207 N277 N276 3
R208 N278 N277 4
R209 N279 N278 5
R210 N258 N259 1
R211 N257 N258 2
R212 N256 N257 3
R213 N255 N256 4
R214 N034 N255 5
R215 N016 N279 5
R216 N259 N016 1
R217 N235 N034 1
R218 N236 N235 2
R219 N237 N236 3
R220 N238 N237 4
R221 N239 N238 5
R222 N218 N219 1
R223 N217 N218 2
R224 N216 N217 3
R225 N215 N216 4
R226 N034 N215 5
R227 N016 N239 5
R228 N219 N016 1
R229 N195 N034 1
R230 N196 N195 2
R231 N197 N196 3
R232 N198 N197 4
R233 N199 N198 5
R234 N178 N179 1
R235 N177 N178 2
R236 N176 N177 3
R237 N175 N176 4
R238 N034 N175 5
R239 N016 N199 5
R240 N179 N016 1
R241 N155 N034 1
R242 N156 N155 2
R243 N157 N156 3
R244 N158 N157 4
R245 N159 N158 5
R246 N138 N139 1
R247 N137 N138 2
R248 N136 N137 3
R249 N135 N136 4
R250 N034 N135 5
R251 N016 N159 5
R252 N139 N016 1
R253 N115 N034 1
R254 N116 N115 2
R255 N117 N116 3
R256 N118 N117 4
R257 N119 N118 5
R258 N098 N099 1
R259 N097 N098 2
R260 N096 N097 3
R261 N095 N096 4
R262 N034 N095 5
R263 N016 N119 5
R264 N099 N016 1
R265 N075 N034 1
R266 N076 N075 2
R267 N077 N076 3
R268 N078 N077 4
R269 N079 N078 5
R270 N058 N059 1
R271 N057 N058 2
R272 N056 N057 3
R273 N055 N056 4
R274 N034 N055 5
R275 N016 N079 5
R276 N059 N016 1
R277 N035 N034 1
R278 N036 N035 2
R279 N037 N036 3
R280 N038 N037 4
R281 N039 N038 5
R282 N014 N015 1
R283 N013 N014 2
R284 N012 N013 3
R285 N011 N012 4
R286 N034 N011 5
R287 N016 N039 5
R288 N015 N016 1
R289 N305 N016 1
R290 N306 N305 2
R291 N307 N306 3
R292 N308 N307 4
R293 N309 N308 5
R294 N288 N289 1
R295 N287 N288 2
R296 N286 N287 3
R297 N285 N286 4
R298 N016 N285 5
R299 N017 N309 5
R300 N289 N017 1
R301 N265 N016 1
R302 N266 N265 2
R303 N267 N266 3
R304 N268 N267 4
R305 N269 N268 5
R306 N248 N249 1
R307 N247 N248 2
R308 N246 N247 3
R309 N245 N246 4
R310 N016 N245 5
R311 N017 N269 5
R312 N249 N017 1
R313 N225 N016 1
R314 N226 N225 2
R315 N227 N226 3
R316 N228 N227 4
R317 N229 N228 5
R318 N208 N209 1
R319 N207 N208 2
R320 N206 N207 3
R321 N205 N206 4
R322 N016 N205 5
R323 N017 N229 5
R324 N209 N017 1
R325 N185 N016 1
R326 N186 N185 2
R327 N187 N186 3
R328 N188 N187 4
R329 N189 N188 5
R330 N168 N169 1
R331 N167 N168 2
R332 N166 N167 3
R333 N165 N166 4
R334 N016 N165 5
R335 N017 N189 5
R336 N169 N017 1
R337 N145 N016 1
R338 N146 N145 2
R339 N147 N146 3
R340 N148 N147 4
R341 N149 N148 5
R342 N128 N129 1
R343 N127 N128 2
R344 N126 N127 3
R345 N125 N126 4
R346 N016 N125 5
R347 N017 N149 5
R348 N129 N017 1
R349 N105 N016 1
R350 N106 N105 2
R351 N107 N106 3
R352 N108 N107 4
R353 N109 N108 5
R354 N088 N089 1
R355 N087 N088 2
R356 N086 N087 3
R357 N085 N086 4
R358 N016 N085 5
R359 N017 N109 5
R360 N089 N017 1
R361 N065 N016 1
R362 N066 N065 2
R363 N067 N066 3
R364 N068 N067 4
R365 N069 N068 5
R366 N048 N049 1
R367 N047 N048 2
R368 N046 N047 3
R369 N045 N046 4
R370 N016 N045 5
R371 N017 N069 5
R372 N049 N017 1
R373 N024 N016 1
R374 N025 N024 2
R375 N026 N025 3
R376 N027 N026 4
R377 N028 N027 5
R378 N004 N005 1
R379 N003 N004 2
R380 N002 N003 3
R381 N001 N002 4
R382 N016 N001 5
R383 N017 N028 5
R384 N005 N017 1
R385 N640 N017 1
R386 N641 N640 2
R387 N642 N641 3
R388 N643 N642 4
R389 N644 N643 5
R390 N623 N624 1
R391 N622 N623 2
R392 N621 N622 3
R393 N620 N621 4
R394 N017 N620 5
R395 N023 N644 5
R396 N624 N023 1
R397 N600 N017 1
R398 N601 N600 2
R399 N602 N601 3
R400 N603 N602 4
R401 N604 N603 5
R402 N583 N584 1
R403 N582 N583 2
R404 N581 N582 3
R405 N580 N581 4
R406 N017 N580 5
R407 N023 N604 5
R408 N584 N023 1
R409 N560 N017 1
R410 N561 N560 2
R411 N562 N561 3
R412 N563 N562 4
R413 N564 N563 5
R414 N543 N544 1
R415 N542 N543 2
R416 N541 N542 3
R417 N540 N541 4
R418 N017 N540 5
R419 N023 N564 5
R420 N544 N023 1
R421 N520 N017 1
R422 N521 N520 2
R423 N522 N521 3
R424 N523 N522 4
R425 N524 N523 5
R426 N503 N504 1
R427 N502 N503 2
R428 N501 N502 3
R429 N500 N501 4
R430 N017 N500 5
R431 N023 N524 5
R432 N504 N023 1
R433 N480 N017 1
R434 N481 N480 2
R435 N482 N481 3
R436 N483 N482 4
R437 N484 N483 5
R438 N463 N464 1
R439 N462 N463 2
R440 N461 N462 3
R441 N460 N461 4
R442 N017 N460 5
R443 N023 N484 5
R444 N464 N023 1
R445 N440 N017 1
R446 N441 N440 2
R447 N442 N441 3
R448 N443 N442 4
R449 N444 N443 5
R450 N423 N424 1
R451 N422 N423 2
R452 N421 N422 3
R453 N420 N421 4
R454 N017 N420 5
R455 N023 N444 5
R456 N424 N023 1
R457 N400 N017 1
R458 N401 N400 2
R459 N402 N401 3
R460 N403 N402 4
R461 N404 N403 5
R462 N383 N384 1
R463 N382 N383 2
R464 N381 N382 3
R465 N380 N381 4
R466 N017 N380 5
R467 N023 N404 5
R468 N384 N023 1
R469 N360 N017 1
R470 N361 N360 2
R471 N362 N361 3
R472 N363 N362 4
R473 N364 N363 5
R474 N343 N344 1
R475 N342 N343 2
R476 N341 N342 3
R477 N340 N341 4
R478 N017 N340 5
R479 N023 N364 5
R480 N344 N023 1
R481 N630 N023 1
R482 N631 N630 2
R483 N632 N631 3
R484 N633 N632 4
R485 N634 N633 5
R486 N613 N614 1
R487 N612 N613 2
R488 N611 N612 3
R489 N610 N611 4
R490 N023 N610 5
R491 0 N634 5
R492 N614 0 1
R493 N590 N023 1
R494 N591 N590 2
R495 N592 N591 3
R496 N593 N592 4
R497 N594 N593 5
R498 N573 N574 1
R499 N572 N573 2
R500 N571 N572 3
R501 N570 N571 4
R502 N023 N570 5
R503 0 N594 5
R504 N574 0 1
R505 N550 N023 1
R506 N551 N550 2
R507 N552 N551 3
R508 N553 N552 4
R509 N554 N553 5
R510 N533 N534 1
R511 N532 N533 2
R512 N531 N532 3
R513 N530 N531 4
R514 N023 N530 5
R515 0 N554 5
R516 N534 0 1
R517 N510 N023 1
R518 N511 N510 2
R519 N512 N511 3
R520 N513 N512 4
R521 N514 N513 5
R522 N493 N494 1
R523 N492 N493 2
R524 N491 N492 3
R525 N490 N491 4
R526 N023 N490 5
R527 0 N514 5
R528 N494 0 1
R529 N470 N023 1
R530 N471 N470 2
R531 N472 N471 3
R532 N473 N472 4
R533 N474 N473 5
R534 N453 N454 1
R535 N452 N453 2
R536 N451 N452 3
R537 N450 N451 4
R538 N023 N450 5
R539 0 N474 5
R540 N454 0 1
R541 N430 N023 1
R542 N431 N430 2
R543 N432 N431 3
R544 N433 N432 4
R545 N434 N433 5
R546 N413 N414 1
R547 N412 N413 2
R548 N411 N412 3
R549 N410 N411 4
R550 N023 N410 5
R551 0 N434 5
R552 N414 0 1
R553 N390 N023 1
R554 N391 N390 2
R555 N392 N391 3
R556 N393 N392 4
R557 N394 N393 5
R558 N373 N374 1
R559 N372 N373 2
R560 N371 N372 3
R561 N370 N371 4
R562 N023 N370 5
R563 0 N394 5
R564 N374 0 1
R565 N350 N023 1
R566 N351 N350 2
R567 N352 N351 3
R568 N353 N352 4
R569 N354 N353 5
R570 N333 N334 1
R571 N332 N333 2
R572 N331 N332 3
R573 N330 N331 4
R574 N023 N330 5
R575 0 N354 5
R576 N334 0 1
R577 N320 N017 1
R578 N321 N320 2
R579 N322 N321 3
R580 N323 N322 4
R581 N324 N323 5
R582 N303 N304 1
R583 N302 N303 2
R584 N301 N302 3
R585 N300 N301 4
R586 N017 N300 5
R587 N023 N324 5
R588 N304 N023 1
R589 N280 N017 1
R590 N281 N280 2
R591 N282 N281 3
R592 N283 N282 4
R593 N284 N283 5
R594 N263 N264 1
R595 N262 N263 2
R596 N261 N262 3
R597 N260 N261 4
R598 N017 N260 5
R599 N023 N284 5
R600 N264 N023 1
R601 N240 N017 1
R602 N241 N240 2
R603 N242 N241 3
R604 N243 N242 4
R605 N244 N243 5
R606 N223 N224 1
R607 N222 N223 2
R608 N221 N222 3
R609 N220 N221 4
R610 N017 N220 5
R611 N023 N244 5
R612 N224 N023 1
R613 N200 N017 1
R614 N201 N200 2
R615 N202 N201 3
R616 N203 N202 4
R617 N204 N203 5
R618 N183 N184 1
R619 N182 N183 2
R620 N181 N182 3
R621 N180 N181 4
R622 N017 N180 5
R623 N023 N204 5
R624 N184 N023 1
R625 N160 N017 1
R626 N161 N160 2
R627 N162 N161 3
R628 N163 N162 4
R629 N164 N163 5
R630 N143 N144 1
R631 N142 N143 2
R632 N141 N142 3
R633 N140 N141 4
R634 N017 N140 5
R635 N023 N164 5
R636 N144 N023 1
R637 N120 N017 1
R638 N121 N120 2
R639 N122 N121 3
R640 N123 N122 4
R641 N124 N123 5
R642 N103 N104 1
R643 N102 N103 2
R644 N101 N102 3
R645 N100 N101 4
R646 N017 N100 5
R647 N023 N124 5
R648 N104 N023 1
R649 N080 N017 1
R650 N081 N080 2
R651 N082 N081 3
R652 N083 N082 4
R653 N084 N083 5
R654 N063 N064 1
R655 N062 N063 2
R656 N061 N062 3
R657 N060 N061 4
R658 N017 N060 5
R659 N023 N084 5
R660 N064 N023 1
R661 N040 N017 1
R662 N041 N040 2
R663 N042 N041 3
R664 N043 N042 4
R665 N044 N043 5
R666 N021 N022 1
R667 N020 N021 2
R668 N019 N020 3
R669 N018 N019 4
R670 N017 N018 5
R671 N023 N044 5
R672 N022 N023 1
R673 N310 N023 1
R674 N311 N310 2
R675 N312 N311 3
R676 N313 N312 4
R677 N314 N313 5
R678 N293 N294 1
R679 N292 N293 2
R680 N291 N292 3
R681 N290 N291 4
R682 N023 N290 5
R683 0 N314 5
R684 N294 0 1
R685 N270 N023 1
R686 N271 N270 2
R687 N272 N271 3
R688 N273 N272 4
R689 N274 N273 5
R690 N253 N254 1
R691 N252 N253 2
R692 N251 N252 3
R693 N250 N251 4
R694 N023 N250 5
R695 0 N274 5
R696 N254 0 1
R697 N230 N023 1
R698 N231 N230 2
R699 N232 N231 3
R700 N233 N232 4
R701 N234 N233 5
R702 N213 N214 1
R703 N212 N213 2
R704 N211 N212 3
R705 N210 N211 4
R706 N023 N210 5
R707 0 N234 5
R708 N214 0 1
R709 N190 N023 1
R710 N191 N190 2
R711 N192 N191 3
R712 N193 N192 4
R713 N194 N193 5
R714 N173 N174 1
R715 N172 N173 2
R716 N171 N172 3
R717 N170 N171 4
R718 N023 N170 5
R719 0 N194 5
R720 N174 0 1
R721 N150 N023 1
R722 N151 N150 2
R723 N152 N151 3
R724 N153 N152 4
R725 N154 N153 5
R726 N133 N134 1
R727 N132 N133 2
R728 N131 N132 3
R729 N130 N131 4
R730 N023 N130 5
R731 0 N154 5
R732 N134 0 1
R733 N110 N023 1
R734 N111 N110 2
R735 N112 N111 3
R736 N113 N112 4
R737 N114 N113 5
R738 N093 N094 1
R739 N092 N093 2
R740 N091 N092 3
R741 N090 N091 4
R742 N023 N090 5
R743 0 N114 5
R744 N094 0 1
R745 N070 N023 1
R746 N071 N070 2
R747 N072 N071 3
R748 N073 N072 4
R749 N074 N073 5
R750 N053 N054 1
R751 N052 N053 2
R752 N051 N052 3
R753 N050 N051 4
R754 N023 N050 5
R755 0 N074 5
R756 N054 0 1
R757 N029 N023 1
R758 N030 N029 2
R759 N031 N030 3
R760 N032 N031 4
R761 N033 N032 5
R762 N009 N010 1
R763 N008 N009 2
R764 N007 N008 3
R765 N006 N007 4
R766 N023 N006 5
R767 0 N033 5
R768 N010 0 1
.tran 0 1m 0 1u
.backanno
.end
